US07109354B2
a) (5-Methyl-pyridin-3-yl)-carbamic acid tert-butyl ester
5-Methyl-nicotinic acid (2 g, 14.6 mmol) was dissolved into t-Butanol (59 mL). To this was added N,N-Diisopropylethylamine (7.6 mL, 43.8 mmol) and diphenylphosphoryl azide (3.8 mL, 17.5 mmol). The reaction was heated to 80° C. overnight in a flask fitted with septa and argon gas line. The solvents were evaporated in vacuo and the resulting residue was dissolved into EtOAc, washed with saturated NaHCO3 and water. The combined organic layers were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by flash column chromatography (SiO2) (50% EtOAc in hexanes) that yielded the title compound as a white solid (2.03 g, 67%). 1H-NMR (CDCl3): δ 8.22 (m, 1H), 8.14 (m, 1H), 7.88 (br s, 1H), 6.58 (br s, 1H), 2.34 (s, 3H), 1.55 (s, 9H).

reactant | 5-Methyl-nicotinic acid | 14.6 mmol, 2 g | CC=1C=NC=C(C(=O)O)C1 | C7H7NO2
reactant | N,N-Diisopropylethylamine | 43.8 mmol, 7.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylphosphoryl azide | 17.5 mmol, 3.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-Butanol | 59 mL | C(C)(C)(C)O | C4H10O
product | (5-Methyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 2.03 g, 67% | C(C)(C)(C)OC(NC=1C=NC=C(C1)C)=O | C11H16N2O2
